US06177440B1
A solution of the {9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester (101 mg, 0.19 mM) and 0.95 mL (1.9 mM) of 2 N NaOH in 9.5 mL of ethanol was stirred for 30 minutes at 25° C. The reaction was acidified with 1N HCl to pH=2. After stirring 30 minutes, the resultant white precipitate was collected by filtration, washed with water, then dried in vacuo to afford 73 mg (75%) {9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-5-carbamoylcarbazol-4-yl}oxyacetic acid. 1H NMR (DMSO-d6) δ 11.0 (bs, 1H), 8.0 (d, J=8 Hz, 2H), 7.85 (d, J=8 Hz, 2H), 7.8 (bs, 1H), 7.7 (s, 1H), 7.65 (d, J=8 Hz, 1H), 7.4 (m, 2H), 7.3-7.1 (m, 6H), 7.0 (s, 1H), 5.8 (s, 2H), 5.0 (s, 2H). MS (ES) m/e 502, 519.

reactant | {9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-5-carbamoylcarbazol-4-yl}oxyacetic acid, methyl ester | 0.19 mM, 101 mg | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)OC)C(N)=O | C30H23F3N2O4
reactant | NaOH | 1.9 mM, 0.95 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | ethanol | 9.5 mL | C(C)O | C2H6O
product | {9-[(phenyl)methyl]-2-(4-trifluoromethylphenyl)-5-carbamoylcarbazol-4-yl}oxyacetic acid | 73 mg, 75% | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(=CC(=CC12)C1=CC=C(C=C1)C(F)(F)F)OCC(=O)O)C(N)=O | C29H21F3N2O4
